US07304081B2
Step 3: Synthesis of 1′-benzylspiro[1,2-benzisothiazole-3,3′-pyrrolidine]1,1-dioxide
To a solution of 2-(1-benzyl-3-hydroxypyrrolidin-3-yl)-N-(tert-butyl)benzene sulfonamide (350 mg, 0.00090 mol) in acetonitrile (15 mL, 0.29 mol) were added sodium iodide (418 mg, 0.00279 mol) and chlorotrimethylsilane (0.354 mL, 0.00279 mol). The reaction mixture was refluxed under nitrogen for 1 hour and then cooled down to room temperature, then quenched with 10% aqueous sodium thiosulfate solution (10 mL), and then extracted with EtOAc. The organic phase was washed with water then brine, and then dried over MgSO4followed by filteration. The filtrate was concentrated to give the desired compound (170 mg, 60% yield). MS (ESI): 315.0 (M+H+).

reactant | 2-(1-benzyl-3-hydroxypyrrolidin-3-yl)-N-(tert-butyl)benzene sulfonamide | 0.00090 mol, 350 mg | C(C1=CC=CC=C1)N1CC(CC1)(O)C1=C(C=CC=C1)S(=O)(=O)NC(C)(C)C | C21H28N2O3S
reactant | acetonitrile | 0.29 mol, 15 mL | C(C)#N | C2H3N
reactant | sodium iodide | 0.00279 mol, 418 mg | [I-].[Na+]
reactant | chlorotrimethylsilane | 0.00279 mol, 0.354 mL | Cl[Si](C)(C)C | C3H9ClSi
product | 1′-benzylspiro[1,2-benzisothiazole-3,3′-pyrrolidine]1,1-dioxide | 170 mg, 60% yield | C(C1=CC=CC=C1)N1CC2(CC1)NS(C1=C2C=CC=C1)(=O)=O | C17H18N2O2S
